* f:\esim\esimmarathon\binarytogray\binarytogray.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m2 b3not b3 net-_m2-pad3_ net-_m2-pad3_ CMOSP W=0.9u L=0.18u M=1
m1 b3not b3 gnd gnd CMOSN W=0.36u L=0.18u M=1
va1 b3 gnd  dc 0
vdd1 net-_m2-pad3_ gnd  dc 5
vb1 b2 gnd  dc 5
m3 b2not b2 gnd gnd CMOSN W=0.36u L=0.18u M=1
m4 b2not b2 net-_m2-pad3_ net-_m2-pad3_ CMOSP W=0.9u L=0.18u M=1
* u2  b3not plot_v1
* u3  b2 plot_v1
* u1  b3 plot_v1
* u4  b2not plot_v1
m7 net-_m7-pad1_ b3not net-_m15-pad3_ net-_m15-pad3_ CMOSP W=0.9u L=0.18u M=1
m9 net-_m10-pad3_ b3 net-_m15-pad3_ net-_m15-pad3_ CMOSP W=0.9u L=0.18u M=1
m8 g2 b2 net-_m7-pad1_ net-_m7-pad1_ CMOSP W=0.9u L=0.18u M=1
m10 g2 b2not net-_m10-pad3_ net-_m10-pad3_ CMOSP W=0.9u L=0.18u M=1
vdd2 net-_m15-pad3_ gnd  dc 5
m5 g2 b3not net-_m5-pad3_ net-_m5-pad3_ CMOSN W=0.36u L=0.18u M=1
m6 net-_m5-pad3_ b2not gnd gnd CMOSN W=0.36u L=0.18u M=1
m11 g2 b3 net-_m11-pad3_ net-_m11-pad3_ CMOSN W=0.36u L=0.18u M=1
m12 net-_m11-pad3_ b2 gnd gnd CMOSN W=0.36u L=0.18u M=1
* u5  g2 plot_v1
vb2 b1 gnd  dc 5
m21 b1not b1 gnd gnd CMOSN W=0.36u L=0.18u M=1
m22 b1not b1 net-_m2-pad3_ net-_m2-pad3_ CMOSP W=0.9u L=0.18u M=1
* u7  b1 plot_v1
* u9  b1not plot_v1
vb3 b0 gnd  dc 0
m27 b0not b0 gnd gnd CMOSN W=0.36u L=0.18u M=1
m28 b0not b0 net-_m2-pad3_ net-_m2-pad3_ CMOSP W=0.9u L=0.18u M=1
* u10  b0 plot_v1
* u11  b0not plot_v1
m15 net-_m15-pad1_ b2not net-_m15-pad3_ net-_m15-pad3_ CMOSP W=0.9u L=0.18u M=1
m17 net-_m17-pad1_ b2 net-_m15-pad3_ net-_m15-pad3_ CMOSP W=0.9u L=0.18u M=1
m16 g1 b1 net-_m15-pad1_ net-_m15-pad1_ CMOSP W=0.9u L=0.18u M=1
m18 g1 b1not net-_m17-pad1_ net-_m17-pad1_ CMOSP W=0.9u L=0.18u M=1
m13 g1 b2not net-_m13-pad3_ net-_m13-pad3_ CMOSN W=0.36u L=0.18u M=1
m14 net-_m13-pad3_ b1not gnd gnd CMOSN W=0.36u L=0.18u M=1
m19 g1 b2 net-_m19-pad3_ net-_m19-pad3_ CMOSN W=0.36u L=0.18u M=1
m20 net-_m19-pad3_ b1 gnd gnd CMOSN W=0.36u L=0.18u M=1
* u8  g1 plot_v1
m25 net-_m25-pad1_ b1not net-_m15-pad3_ net-_m15-pad3_ CMOSP W=0.9u L=0.18u M=1
m29 net-_m29-pad1_ b1 net-_m15-pad3_ net-_m15-pad3_ CMOSP W=0.9u L=0.18u M=1
m26 g0 b0 net-_m25-pad1_ net-_m25-pad1_ CMOSP W=0.9u L=0.18u M=1
m30 g0 b0not net-_m29-pad1_ net-_m29-pad1_ CMOSP W=0.9u L=0.18u M=1
m23 g0 b1not net-_m23-pad3_ net-_m23-pad3_ CMOSN W=0.36u L=0.18u M=1
m24 net-_m23-pad3_ b0not gnd gnd CMOSN W=0.36u L=0.18 M=1
m31 g0 b1 net-_m31-pad3_ net-_m31-pad3_ CMOSN W=0.36u L=0.18u M=1
m32 net-_m31-pad3_ b0 gnd gnd CMOSN W=0.36u L=0.18u M=1
* u12  g0 plot_v1
* u6  b3 plot_v1
.tran 0.01e-00 5e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(b3not)
plot v(b2)
plot v(b3)
plot v(b2not)
plot v(g2)
plot v(b1)
plot v(b1not)
plot v(b0)
plot v(b0not)
plot v(g1)
plot v(g0)
plot v(b3)
.endc
.end
